US04415571
6.0 g (29.5 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone, 4.0 g (32.6 millimoles) of isopropyl chloroformate and 100 ml of absolute toluene are refluxed for 16 hours. The product is filtered off at 10° C., washed first with toluene and then with water, and recrystallized twice from dimethylformamide/water. 4.3 g (50% of theory) of 4,5-dihydro-6-(p-isopropoxycarbonylaminophenyl)-5-methyl-3(2H)-pyridazinone are obtained as colorless crystals, of melting point 236°-237° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 29.5 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | isopropyl chloroformate | 32.6 millimoles, 4.0 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-6-(p-isopropoxycarbonylaminophenyl)-5-methyl-3(2H)-pyridazinone | 4.3 g, 50% | C(C)(C)OC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H19N3O3
